US06316626B1
To a suspension of either D, L, or DL serine methyl ester hydrochloride (1.0 eq.) and FMOC-D, L or DL serine (1 eq.) in DMF (0.2 M) is added collidine (3 eq.), followed by HATU (1.1 eq). The resulting solution is stirred at rt overnight, and then diluted with EtOAc and washed with 5% NaHCO3, dried over MgSO4, concentrated in vacuo, and chromatographed on silica gel (EtOAc/hexane) to provide a nearly quantitative yield of FMOC-Ser-Ser-OMe. This material can be prepared as either the DD, DL, LD, or LL stereoisomers, or a mixture of any of the above by varying the chirality of the starting serine derivatives.

reactant | DL serine methyl ester hydrochloride | 1.0 eq. | Cl.COC(C(N)CO)=O
reactant | serine | 1 eq. | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | collidine | 3 eq. | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | HATU | 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 0.2 M | CN(C)C=O | C3H7NO
product | FMOC-Ser-Ser-OMe | quantitative yield | N([C@@H](CO)C(=O)N[C@@H](CO)C(=O)OC)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C22H24N2O7
